Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall, heart block 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of demetia who 
presented after unwitnessed fall found to have brief episode of 
junctional bradycardia and possible complete heart block.  
 She was in her usual state of health at ___ 
___ until this am, when she was found on the ground by an 
aide. Due to dementia, additional history was unable to be 
obtained.  
 Per her daughter and HCP, ___, she likely has fallen before 
and it is unclear if she lost consciousness. She was recently 
admitted to ___ earlier this month for fall with 
unremarkable workup. she reports that her dementia has been 
progressing and her gait has become more unsteady. She reports 
no recent illness, diarrhea, constipation, fevers, rhinorrhea, 
cough, chest pain, urinary symptoms that she is aware of.  
 She was brought to ___ where NCCT and C-spine were 
negative for fracture or acute process. She had a head 
laceration that was sutured. EKG revealed junctional rhythm, so 
she was transferred here for cardiology evaluation.  
 In the ED here, she was afebrile with stable vitals and HR in 
___. Troponin was negative and labs were notable for 
leukocytosis to 20.5 with 91.4% PMNs. EKG revealed normal sinus 
rhythm. She was cachectic on exam.  
 Upon arrival to the floor, she reports no complaints. No chest 
pain, shortness of breath, fevers, chills, abdominal pain, 
n/v/d, palpitations, dizziness, urinary symptoms. She is unable 
to remember the situation surrounding her two falls and is 
oriented to name only.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 =====================  
 1. CARDIAC RISK FACTORS: None  
 2. CARDIAC HISTORY: None  
 3. OTHER PAST MEDICAL HISTORY  
 - dementia  
 - depression  
 - vitamin D deficiency  
 - hysterectomy  

 
Social History:
___
Family History:
Mother - melanoma
 
Physical ___:
Exam on admission:
========================
VITALS: 97.8 120/69 77 18 98 Ra  
 GENERAL: Cachectic, pleasant  
 HEENT: Sutured laceration L occiput  
 NECK: No JVD  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars  
.
Exam on discharge:
========================
VITALS:  ___ 0752 Temp: 97.7 PO BP: 147/71 L Lying HR: 70
RR: 18 O2 sat: 96% O2 delivery: RA 
GENERAL: Cachectic, pleasant
HEENT: Sutured laceration L occiput, ecchymosis under the R eye
NECK: No JVD
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars

 
Pertinent Results:
Labs on admission:
==========================
___ 05:15PM BLOOD WBC-20.5* RBC-3.77* Hgb-11.9 Hct-35.7 
MCV-95 MCH-31.6 MCHC-33.3 RDW-13.1 RDWSD-45.0 Plt ___
___ 05:15PM BLOOD Neuts-91.4* Lymphs-4.8* Monos-2.9* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-18.71* AbsLymp-0.99* 
AbsMono-0.60 AbsEos-0.00* AbsBaso-0.04
___ 05:15PM BLOOD ___ PTT-20.6* ___
___ 05:15PM BLOOD Plt ___
___ 05:15PM BLOOD Glucose-122* UreaN-20 Creat-1.0 Na-143 
K-4.7 Cl-100 HCO3-24 AnGap-19*
___ 03:10AM BLOOD Calcium-9.1 Phos-5.1* Mg-2.4
___ 05:15PM BLOOD TSH-3.3
___ 03:10AM BLOOD TSH-1.8
___ 06:47AM BLOOD VitB12-281
___ 03:10AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:15PM BLOOD cTropnT-<0.01
.
Microbiology:
==========================
BCx: NGTD
.
___ 10:57 pm URINE      Source: ___. 
                            **FINAL REPORT ___
URINE CULTURE (Final ___:    NO GROWTH. 
.
Reports:
==========================
CXR:
IMPRESSION:  
No acute cardiopulmonary abnormality.  Hyperinflation suggesting 
COPD. 
.
Labs on discharge:
==========================
___ 06:20AM BLOOD WBC-11.6* RBC-2.79* Hgb-8.9* Hct-26.5* 
MCV-95 MCH-31.9 MCHC-33.6 RDW-12.9 RDWSD-45.1 Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-83 UreaN-28* Creat-0.7 Na-146 
K-3.4 Cl-104 HCO3-27 AnGap-15
___ 06:20AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.2

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of dementia who
presented after unwitnessed fall and found to have brief episode 
of
junctional bradycardia and possible complete heart block at ___ 
___. She was transferred to ___ for EP evaluation. EP 
discussed potential PPM with family, and decided was not within 
goals of care. Patient was noted to be orthostatic with resting 
SBPs in the 100s-160s, but falling to as low as ___ upon 
standing, thought to be secondary to autonomic instability, as 
it continued after IVF.

# FALLS
History of multiple falls with unclear etiology and unclear
history/preceding symptoms given dementia. Lives in assisted 
living facility. Falls could be syncope ___ junctional 
bradycardia discussed below.
Could also be mechanical, medication-related (on gabapentin,
lorazepam, and duloxetine). Less likely infection, though 
patient had leukocytosis but with negative infectious work up 
and with improvement to near normal without abx. EP consulted, 
and after discussion with daughter,
determined not within GOC for PPM placement. Patient was 
orthostatic, thought to likely be chronic, with 
normotension/hypertension at baseline and not tachycardic. 
Behavioral modifications were recommended to mitigate these 
effects. TSH, B12 were WNL. 

# JUNCTIONAL BRADYCARDIA AND COMPLETE HEART BLOCK
EKG from ___ with sinus node dysfunction with junctional
escape versus complete heart block. EKG and changed to normal 
sinus rhythm. Unclear if this is the etiology of her falls vs 
orthostatic hypotension vs. gait instability from 
ventriculomegaly (see below). After discussion with family, not 
within ___ to get PPM. Monitored on telemetry and remained in 
sinus.

# LEUKOCYTOSIS
WBC 20.5 with 91.4% PMNs on admission. No localizing signs of
infection. Afebrile. UA negative and CXR clear. No abx and 
decreased to 11 by time of discharge. No fevers. Likely stress 
response. No report of
seizure-like activity or loss of consciousness (but lack of
history).

# DEMENTIA
# AGITATION AND ANXIETY
Patient has end stage dementia and has history of agitation and
anxiety. Currently on lorazepam standing, gabapentin standing 
and
prn for agitation, and duloxetine. Would recommend follow up 
with psychiatry and decreasing meds as possible.

# ORTHOSTATIC HYPOTENSION
Noted during admission, and could be contributor to falls.
Patient has been hypertensive so unlikely dehydrated, may have
autonomic instability given age and comorbitidies. Please see 
below for recommendations on managing this as an outpatient.

# DIFFUSE VENTRICULOMEGALY
Seen on CT scan at ___ during prior admission for fall.
Patient could have NPH causing her falls. Concern for NPH on 
that
admission was discussed with neurology and family and decision
made to decline evaluation with MRI given that LP and VP shunt
placement would not be within goals of care.

# HLD - continued home colestipol
# Vit D deficiency - continued home vit D

# GOALS OF CARE
After long discussion with HCP ___, learned that patient is
DNR/DNI. She is also not okay with electric shocks or
transcutaneous pacing. She is unsure about ICU transfer. Per
family would not want PPM after discussion with cards fellow
yesterday. 

TRANSITIONAL ISSUES:
- Please set up appointment with psychiatry to facilitate 
adjustment and potential down-titration of sedating meds, 
particularly Ativan, which may be contributing to falls.
- Please ensure stitches over L scalp are removed by ___
- Regarding orthostatics - patient dropped from SBP 120s to ___ 
today with standing, unclear if symptomatic. Would recommend the 
following:
 - continue compression stockings
 - do not get up after meals for 1 hour as this may contribute 
to symptoms
 - get up slowly from bed, first sitting for 2 minutes, then 
standing, before walking
 - maintain good hydration with 6 full glasses of water per day 
- TTE ordered for patient to have as outpatient
# CODE: DNR/DNI
# CONTACT: HCP: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. DULoxetine 30 mg PO DAILY 
2. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
3. LORazepam 0.25 mg PO TID 
4. colestipol 1 GM oral DAILY 
5. Gabapentin 100 mg PO TID:PRN anxiety/agitation 
6. Gabapentin 100 mg PO DAILY 

 
Discharge Medications:
1.  colestipol 1 GM oral DAILY  
2.  DULoxetine 30 mg PO DAILY  
3.  Gabapentin 100 mg PO TID:PRN anxiety/agitation  
4.  Gabapentin 100 mg PO DAILY  
5.  LORazepam 0.25 mg PO TID  
6.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
================
Fall
Intermittent junctional rhythm with complete heart block

Secondary:
===============
Dementia
Orthostatic hypotension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care during your admission 
to ___.

Why you were admitted:
========================================
- You were admitted to the hospital after you had a fall at home
- You were found to have an irregular heart rhythm at ___ 
___, and transferred to ___ for further 
evaluation of your abnormal heart rhythm

What was done during your admission:
========================================
- You were seen by the electrophysiology team who discussed the 
possibility of placing a pacemaker, but decided, with your 
family, that this would not be within your goals of care given 
the nature of the procedure, and the postoperative requirements 
of it
- You were observed, and your heart rhythm returned to the 
normal heart rhythm, and your blood pressures were stable.
- You were noted to have a low blood pressure when standing up. 
Please see below for further recommendations about this.

What you should do when you go home:
========================================
- Please follow up with your regular doctor as noted below, in 
the next ___ days
- Please have your blood pressure measured by a visiting nurse 
while sitting and standing to monitor your blood pressures with 
standing
- Please DO NOT get up within 1 hour of eating, as you may be 
more likely to be lightheaded with standing after a meal
- Please continue to take your home medications
- Please wear compression stockings
- Please stay hydrated by drinking 6 glasses of water a day
- When getting up from bed, please get up slowly, first sitting 
for a few minutes, then standing and waiting for a minute so as 
not to be lightheaded.

We wish you the best!
-Your ___ care team
 
Followup Instructions:
___